US04868061
9.7 mL diphosgene is added dropwise over 50 minutes to a mixture of 12.85 gdiemthyl aminomalonate hydrochloride and 0.1 g activated charcoal in 25 mL dioxane under N2. The reaction mixture warms to 75°-80°C. during this time. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moistureto a minimum. The crude product is purified by fractional distillation (bp 80°-85° C., <1 mm Hg) to give pure dimethyl isocyanatomalonate in >80% yield.

reactant | diphosgene | 9.7 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | aminomalonate hydrochloride | Cl.NC(C(=O)O)C(=O)O
reactant | charcoal | C | CH4
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | dimethyl isocyanatomalonate | >80% yield | N(=C=O)C(C(=O)OC)C(=O)OC | C6H7NO5
